US09428470B2
B) 3-(2-(5,5-Bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoic acid
A mixture of benzyl (2E)-3-(4-(benzyloxy)-2-(5,5-bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl)acrylate (2.47 g), 10% Pd/C (containing about 55% water, 250 mg), and THF (25 mL) was stirred at room temperature for 3 hours under a hydrogen atmosphere. The catalyst was filtered off, and then, the filtrate was concentrated under reduced pressure to obtain the title compound (1.680 g).

reactant | benzyl (2E)-3-(4-(benzyloxy)-2-(5,5-bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl)acrylate | 2.47 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)/C=C/C(=O)OCC1=CC=CC=C1)C1=NOC(C1)(CC(OC)=O)CC(=O)OC | C32H31NO8
catalyst | Pd/C | 250 mg | [Pd] | Pd
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-(2-(5,5-Bis(2-methoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoic acid | 1.680 g | COC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)O)CC(OC)=O)=O | C18H21NO8
